US05726165
3-Benzyloxypropylhydroxymethylphosphinic acid, n-butyl ester
The title compound was prepared from 3-benzyloxypropylphosphinic acid n-butyl ester and paraformaldehyde according to the method described in Procedure 31. Purification by chromatography, eluting with dichloromethane containing 5% methanol, gave an oil.

reactant | 3-benzyloxypropylphosphinic acid n-butyl ester | C(CCC)OP(=O)CCCOCC1=CC=CC=C1 | C14H23O3P
reactant | paraformaldehyde | C=O | CH2O
product | 3-Benzyloxypropylhydroxymethylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)OCCCP(OCCCC)(=O)CO | C15H25O4P
